US05525632
Step 3: Preparation of (E)-3-(3-amino-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile
84 mg of (E)-3-(3-nitro-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile was dissolved in 8 ml of acetic acid then zinc was added to the mixture. The mixture was stirred vigorously for 1 hour then filtered and concentrated. The residue was purified on a silica gel plate (dichloromethane) to give 60 mg of the intended compound.

reactant | (E)-3-(3-nitro-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile | 84 mg | [N+](=O)([O-])C=1C=C(C=CC1C)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC | C19H18N2O5
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | (E)-3-(3-amino-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile | 60 mg | NC=1C=C(C=CC1C)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC | C19H20N2O3
